### PR TITLE
remove dependence on Arith lemmas

### PR DESCRIPTION
**Pull request by soraros**
Ensure `by ...` does not invoke arithmetic hints from the Coq prelude.

### CODE REVIEW

**Comment by soraros** [comment]
> By "check" I just meant trying to see how much of rest of the library compiles with your Remove Hints command, but we can leave that experiment for another PR.

@ggonthier this is easier than I thought

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -1647,14 +1647,17 @@ elim: p q => [p IHp|p IHp|] [q|q|] //=; rewrite !natTrecE //;
   by rewrite ?IHp ?nat_of_succ_gt0 ?(doubleS, doubleD, addn1, addnS).
 Qed.
 
+Lemma nat_of_muln_gt0 p q : (p * q)%positive = p * q :> nat.
+Proof.
```
Comment (soraros) [inline mathcomp/ssreflect/ssrnat.v]: I add this lemma so the proof script for `nat_of_mul_bin` is similar to `nat_of_add_bin`

File: mathcomp/ssreflect/ssreflect.v [hunk 2]
```diff
@@ -4,6 +4,7 @@ From Coq Require Export ssreflect.
 Global Set SsrOldRewriteGoalsOrder.
 Global Set Asymmetric Patterns.
 Global Set Bullet Behavior "None".
+Remove Hints plus_n_O plus_n_Sm mult_n_O mult_n_Sm : core.
```
Comment (ggonthier) [inline mathcomp/ssreflect/ssreflect.v]: Please put this in `ssrnat.v` rather than `ssreflect.v`. The latter is meant to be a proxy for `Coq/plugins/ssr/ssreflect`, so apart from the `Require Import` it should only contain parameter settings and local advance copies of upcoming features (as we angle for backward compatibility with 2 prior versions of Coq). An conceivably some MathComp users might choose not to use `ssrnat` (e.g., to make it easier to use some of the not-so-parametrisable arithmetic automation), and those would expect to have these hints available.

File: mathcomp/ssreflect/ssrnat.v [hunk 3]
```diff
@@ -831,7 +831,7 @@ Proof. by move=> eq_op x; apply: eq_iteri; case. Qed.
 End Iteration.
 
 Lemma iter_succn m n : iter n succn m = m + n.
-Proof. by elim: n => //= n ->. Qed.
+Proof. by elim: n => /= [| n ->]; rewrite ?addn0 // addnS. Qed.
```
Comment (ggonthier) [inline mathcomp/ssreflect/ssrnat.v]: Perhaps `rewrite addnC; elim: n => //= n ->` or `rewrite addnC; apply/eqP; elim: n` would be more elegant.

File: mathcomp/ssreflect/ssrnat.v (hunk 1 above)
Comment (ggonthier) [reply mathcomp/ssreflect/ssrnat.v]: Well, `nat_of_addn_gt0` was not meant as a user-facing lemma, and was only there to factor a subproof common to `nat_of_add_bin` and `nat_of_add_mul`; Coq lacked the facilities (`Local Lemma`) to express that at the time this was written.
  I'm fine with switching to export `nat_of_[succ|addn|muln]_gt0`, but they need better names.
`nat_of_[succ|add|mul]_pos` seems the obvious choice.

File: mathcomp/ssreflect/ssreflect.v (hunk 2 above)
Comment (soraros) [reply mathcomp/ssreflect/ssreflect.v]: This is never meant to stay at merge time. I just add it here to make sure the we are really clean from arith lemmas.
Now moved.

File: mathcomp/ssreflect/ssrnat.v (hunk 3 above)
Comment (soraros) [reply mathcomp/ssreflect/ssrnat.v]: Wow!

File: mathcomp/ssreflect/ssrnat.v [hunk 4]
```diff
@@ -105,6 +105,7 @@ Require Export Ring.
 Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
+Remove Hints plus_n_O plus_n_Sm mult_n_O mult_n_Sm : core.
```
Comment (soraros) [inline mathcomp/ssreflect/ssrnat.v]: Not so sure where to place this line in ssrnat.

File: mathcomp/ssreflect/ssrnat.v (hunk 1 above)
Comment (soraros) [reply mathcomp/ssreflect/ssrnat.v]: Changed to `nat_of_[succ|add|mul]_pos`.

File: mathcomp/ssreflect/ssrnat.v (hunk 4 above)
Comment (ggonthier) [reply mathcomp/ssreflect/ssrnat.v]: The top of the file seems as good a place as any. Do separate this from the boilerplate flags with at least an empty line, and preferably a short rationale comment such as "Disable Coq prelude hints to improve proof script robustness."

Comment (soraros) [reply mathcomp/ssreflect/ssrnat.v]: @ggonthier, Is this what you mean?

Comment (ggonthier) [reply mathcomp/ssreflect/ssrnat.v]: Yes, that's perfect.

**Comment by soraros** [comment]
@ggonthier Thank you for your guidance!

**Comment by RalfJung** [comment]
This affects all proofs using `auto`/`eauto` as well in any development where ssreflect is (transitively) imported, right? So, e.g. anything using Iris now will also not have these hints in the `core` database any more?

It would be good if such global side-effects of ssreflect could at least be documented, similar to [what std++ does](https://gitlab.mpi-sws.org/iris/stdpp/#side-effects).
